US08871934B2
2′-chloro-4′-methyl-biphenyl-2-carboxylic acid
To a mixture of ethanol (728 ml) and 2′-chloro-4′-methyl-biphenyl-2-carboxylic acid ethyl ester (337 g) was added 4N aqueous sodium hydroxide solution (728 ml), and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, activated carbon (17 g) was added and the mixture was stirred overnight. The activated carbon was filtered off, and washed with 50 v/v % ethanol-water (200 ml). The filtrate was acidified by dropwise addition of acetic acid (500 ml) at room temperature. To this mixture, water (414 ml) was added dropwise at room temperature, and the mixture was stirred for 2 hr. This suspension was filtered, and the obtained solid was washed with 40 v/v % ethanol-water (250 ml), and dried under reduced pressure at 80° C. to give the title compound (203 g, 2 steps 85%).

reactant | 2′-chloro-4′-methyl-biphenyl-2-carboxylic acid ethyl ester | 337 g | C(C)OC(=O)C=1C(=CC=CC1)C1=C(C=C(C=C1)C)Cl | C16H15ClO2
reactant | sodium hydroxide | 4N, 728 ml | [OH-].[Na+]
solvent | ethanol | 728 ml | C(C)O | C2H6O
product | 2′-chloro-4′-methyl-biphenyl-2-carboxylic acid | 203 g, 85% | ClC1=C(C=CC(=C1)C)C=1C(=CC=CC1)C(=O)O | C14H11ClO2
